US07317124B2
a) 4-Pentafluorosulfanylphenol
40.00 g of 4-pentafluorosulfanylaniline were suspended in 500 ml of a 35% aqueous H2SO4 solution and a solution of 13.85 g of NaNO2 in 30 ml of water was added dropwise at 0° C. over a period of 10 minutes. Subsequently, the mixture was stirred at 0° C. for 35 minutes, then a solution, at 0° C., of 171.10 g of Cu(NO3)2 in 200 ml of water was poured in and, directly thereafter, 26.11 g of Cu2O were added in portions. The mixture is stirred at RT for a further 2 hours, then extraction is effected 3 times with 200 ml each time of CH2Cl2. Drying was effected over MgSO4 and the solvent was removed under reduced pressure. 38.00 g of a pale yellow oil were obtained which was used further without purification.

reactant | 4-pentafluorosulfanylaniline | 40.00 g | FS(C1=CC=C(N)C=C1)(F)(F)(F)F | C6H6F5NS
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 13.85 g | N(=O)[O-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-Pentafluorosulfanylphenol | 38.00 g | FS(C1=CC=C(C=C1)O)(F)(F)(F)F | C6H5F5OS
